US07855202B2
3″,5″-difluoro-3,2′:3′,4″-terpyridine-5′,6′-diamine
A suspension of 3″,5″-difluoro-5′-nitro-3,2′:3′,4″-terpyridin-6′-amine (0.2 g, 0.608 mmol) and 10% palladium on carbon (0.04 g) in a mixture of THF/ethanol 40:60 (8 mL) was stirred under hydrogen atmosphere at 2.76 bar. After 12 h, the mixture was filtered through Celite® and the filter cake was washed with ethanol and THF. The combined filtrate and washings were evaporated to give the title compound as a solid (0.180 g, 99%).

reactant | 3″,5″-difluoro-5′-nitro-3,2′:3′,4″-terpyridin-6′-amine | 0.608 mmol, 0.2 g | FC=1C=NC=C(C1C=1C(=NC(=C(C1)[N+](=O)[O-])N)C=1C=NC=CC1)F | C15H9F2N5O2
catalyst | palladium on carbon | 0.04 g | [Pd] | Pd
solvent | THF ethanol | 8 mL | C1CCOC1.C(C)O
product | 3″,5″-difluoro-3,2′:3′,4″-terpyridine-5′,6′-diamine | 0.180 g, 99% | FC=1C=NC=C(C1C=1C(=NC(=C(C1)N)N)C=1C=NC=CC1)F | C15H11F2N5
